2174-10-21 11:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory Distress
   Chest Pain
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2174-10-20**] 10:07 PM
 NASAL SWAB - At [**2174-10-21**] 12:17 AM
 FEVER - 104.9
F - [**2174-10-20**] 11:00 PM
   Overnight-->
   -Patient with recurrent paroxysms of cyanosis, chest pain and on
   VBG--7.24/55/38
   -Patient had evolution of severe elevation in tempertaure to 105F--this
   would be atypical for allergic reaction but is consistent with severe
   infection
   -Finally patient had severe hypocalcemia noted
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Latex
   Anaphylaxis;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Anaphylaxis;
   Penicillins
   Hives; Shortnes
   Clindamycin
   Unknown;
   Shellfish Derived
   Anaphylaxis;
   Ibuprofen
   Unknown;
   Codeine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-10-20**] 10:07 PM
   Vancomycin - [**2174-10-21**] 09:00 AM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2174-10-21**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.5
C (104.9
   Tcurrent: 37
C (98.6
   HR: 65 (65 - 105) bpm
   BP: 108/47(63) {99/40(36) - 149/104(111)} mmHg
   RR: 16 (16 - 37) insp/min
   SpO2: 100%
             Total In:
                                                                    110 mL
                                                                  1,510 mL
   PO:
             400 mL
   TF:
   IVF:
                                                                    110 mL
                                                                  1,110 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    370 mL
   Urine:
                                                                    680 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                  1,140 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   191 K/uL
   163 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.0 mEq/L
   20 mg/dL
   100 mEq/L
   142 mEq/L
   31.7 %
   11.2 K/uL
        [image002.jpg]
                            [**2174-10-21**]  03:55 AM
   WBC
   11.2
   Hct
   31.7
   Plt
   191
   Cr
   1.0
   Glucose
   163
   Other labs: PT / PTT / INR:21.2/144.2/2.0, Differential-Neuts:94.4 %,
   Lymph:4.0 %, Mono:1.2 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Ca++:9.3
   mg/dL, Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: 7.26/65/>300-->35%
   Imaging: CXR-Right sided PICC in place, low lung volumes, cardiomegaly,
   no focal infiltrates noted.
   Microbiology: Blood cultures--positive for GNR's
   Assessment and Plan
   66 yo female with admission with fever and dyspnea in the setting of
   COPD recently admitted with similar complaints and diagnosed with PE by
   clinical findings given history of an allergy for Shellfish.  Now
   patiet returned following discharge on treatment for cellulitis and
   PE.  Now patient with recurrent admission to [**Hospital1 5**] with fever and
   possible UTI Rx'd with CTX.  Despite this patient on the medical floor
   had acute respiratory distress with cyanosis and band-like chest
   discomfort.  Unifying diagnosis is difficult to determine but this
   acute paroxysm of respiratory distress, chest pain and fever with rapid
   resolution is quite consistent with allergen or toxin mediated
   reaction.  The severely elevated fever does have possible explanations
   with syndromes such as NMS, Sertonin Syndrome but his all seems
   unlikley and rather this may be an atypical syndromic response to
   allergin or toxin vs. manifestation of bactermia.
 Sepsis
   -Will continue Vanco/CTX
   -Likley represents manifestation of sepsis with possible urinary source
   and now with positive blood cultures
   -Follow up cultures and sensitivities
 RESPIRATORY FAILURE
   -Bronchodilators PRN and BIPAP to continue
   -Likley represents broncchospasm and possible irritants with transient
   non-cardiogenic edema in the setting of bacteremia
   -Unlikely recurrent PE with such self limited events but will repeat
   LENI today
   -No evidence or volume overload at this time or significant pulmonary
   infiltrate on CXR
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   -Heparin IV
   -Recheck LENI
s today
 .H/O CARDIAC DYSRHYTHMIA OTHER
 DIABETES MELLITUS (DM), TYPE II
   HYPOCALCEMIA-
   -Serum total calcium=normal
   -Calcium replaced overnight
   -This may be acute shift in binding with severe change in acidosis in
   acute setting resulting in acute decrease in free calcium
   -Will repeat Ca++ today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2174-10-20**] 10:07 PM
   Prophylaxis:
   DVT: IV Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2174-10-24 13:56:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   66 yo women with admitted with respiratory distress, morbidly obese
   with asthma, CAD, ? of prior PE.  Was admited with respiratory
   distress, found to be likely aspirating.
   24 Hour Events:
   Allergies:
   Latex
   Anaphylaxis;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Anaphylaxis;
   Penicillins
   Hives; Shortnes
   Clindamycin
   Unknown;
   Shellfish Derived
   Anaphylaxis;
   Ibuprofen
   Unknown;
   Codeine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2174-10-21**] 08:43 PM
   Ceftriaxone - [**2174-10-23**] 12:16 AM
   Infusions:
   Other ICU medications:
   Other medications:
   zantac
   ultram
   neurontin
   SSI
   levoxyl
   singulair
   advair
   sertraline
   coumadin
   cipro
   lopressor
   neutraphos
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: no dyspnea, no PND, no orthopnea, no chest pain
   Flowsheet Data as of  [**2174-10-24**] 01:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 35.9
C (96.6
   HR: 75 (62 - 132) bpm
   BP: 116/56(69) {110/47(65) - 137/113(118)} mmHg
   RR: 25 (17 - 33) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,583 mL
                                                                  1,103 mL
   PO:
                                                                    730 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,853 mL
                                                                    623 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    815 mL
   Urine:
                                                                  1,530 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,053 mL
                                                                    288 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 90%
   ABG: ///32/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   168 K/uL
   145 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.2 mEq/L
   21 mg/dL
   108 mEq/L
   145 mEq/L
   27.1 %
   5.3 K/uL
        [image002.jpg]
                            [**2174-10-21**]  03:55 AM
                            [**2174-10-22**]  05:39 AM
                            [**2174-10-22**]  07:31 PM
                            [**2174-10-24**]  02:26 AM
   WBC
   11.2
   10.2
   7.5
   5.3
   Hct
   31.7
   32.3
   29.1
   27.1
   Plt
   191
   171
   155
   168
   Cr
   1.0
   1.0
   1.1
   0.8
   Glucose
   163
   188
   157
   145
   Other labs: PT / PTT / INR:31.4/37.8/3.2, Differential-Neuts:94.4 %,
   Lymph:4.0 %, Mono:1.2 %, Eos:0.1 %, Lactic Acid:1.7 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION/ Enterobacter bacteremia:  on Cipro
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DYSPNEA (SHORTNESS OF BREATH):  [**Month (only) 8**] have some component of aspiration
   along with COPD.   Bi-PAP Mask when sleeping.
 .H/O PULMONARY EMBOLISM (PE), ACUTE:  On coumadin
 .H/O CARDIAC DYSRHYTHMIA OTHER
 DIABETES MELLITUS (DM), TYPE II
   Spirometry to r/o COPD.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-10-22**] 09:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2174-10-25 10:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo women with respiratory failure, morbidly obese, COPD
   24 Hour Events:
   S+S eval today without evidence of food aspiration
   Urine cx.  with Enterobacter cloacae
   Allergies:
   Latex
   Anaphylaxis;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Anaphylaxis;
   Penicillins
   Hives; Shortnes
   Clindamycin
   Unknown;
   Shellfish Derived
   Anaphylaxis;
   Ibuprofen
   Unknown;
   Codeine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-10-23**] 12:16 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2174-10-24**] 09:01 PM
   Other medications:
   ultram
   synthroid
   advair
   zoloft
   cipro
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2174-10-25**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 75 (65 - 113) bpm
   BP: 160/89(107) {111/52(65) - 160/89(107)} mmHg
   RR: 19 (19 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,643 mL
                                                                    738 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  1,803 mL
                                                                    738 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    560 mL
   Urine:
                                                                  1,285 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,358 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l, Wheezes : b/l)
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   185 K/uL
   138 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.2 mEq/L
   16 mg/dL
   106 mEq/L
   143 mEq/L
   25.8 %
   5.6 K/uL
        [image002.jpg]
                            [**2174-10-21**]  03:55 AM
                            [**2174-10-22**]  05:39 AM
                            [**2174-10-22**]  07:31 PM
                            [**2174-10-24**]  02:26 AM
                            [**2174-10-25**]  02:24 AM
   WBC
   11.2
   10.2
   7.5
   5.3
   5.6
   Hct
   31.7
   32.3
   29.1
   27.1
   25.8
   Plt
   191
   171
   155
   168
   185
   Cr
   1.0
   1.0
   1.1
   0.8
   0.7
   Glucose
   163
   188
   157
   145
   138
   Other labs: PT / PTT / INR:33.7/40.2/3.5, Differential-Neuts:94.4 %,
   Lymph:4.0 %, Mono:1.2 %, Eos:0.1 %, Lactic Acid:1.7 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Complete course of cipro for enterobacter bacteremia.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DYSPNEA (SHORTNESS OF BREATH):  Slightly dyspneic today.  Will give
   albuterol and some lasix.
 .H/O PULMONARY EMBOLISM (PE), ACUTE:  INR 3.5 can maybe restart with
   low dose.
 .H/O CARDIAC DYSRHYTHMIA OTHER
 DIABETES MELLITUS (DM), TYPE II
   AFib:  Currently in sinus rhythm
   ICU Care
   Nutrition:
   Comments: advance to full diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-10-22**] 09:46 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes